US05010100
A solution of the more mobile fraction of 1-(5-(2-hydroxyethylsulfonyl)-4-n-propoxy-3-methoxyphenyl)-4-(3,4,5-trimethoxyphenyl-4-oxo-butan-1-yl(R)-(O)-methylmandelate (200 mg, 0.300 mmole) in dry THF (15 mL) at 0° C. under nitrogen atmosphere was treated with lithium aluminum hydride (20 mg, 0.5 mmole), and stirred for 2 hours. After the usual workup, the crude (1S, 4RS)-1-(5-(2-hydroxyethylsulfonyl)-4-n-propoxy-3-methoxyphenyl)-4-(3,4,5-trimethoxyphenyl)-butan-1,4-diol was dissolved in chloroform (2 mL, stabilized with ethanol), chilled to 0° C., stirred, and treated with 10% (v/v) of trifluoroacetic acid in chloroform (2 mL, stabilized with ethanol). After 4 hours at 0° C., anhydrous Na2CO3 (1.0 mg, 9.4 mmole) was added, and the mixture was stirred for additional 15 minutes. The mixture was then filtered, and the filtrate was evaporated to a syrup which was purified by preparative TLC SiO2 plates developed with 3:2 (v/v) ethyl acetate hexane to provide (-)-(2S,5S)-2-(5-2-hydroxyethylsulfonyl)-4-n-propoxy-3-methoxyphenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrofuran, m.p. 111°-112° C.; [α]D -61.4° (c=1, CHCl3).

reactant | lithium aluminum hydride | 0.5 mmole, 20 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (1S, 4RS)-1-(5-(2-hydroxyethylsulfonyl)-4-n-propoxy-3-methoxyphenyl)-4-(3,4,5-trimethoxyphenyl)-butan-1,4-diol | OCCS(=O)(=O)C=1C(=C(C=C(C1)[C@H](CCC(O)C1=CC(=C(C(=C1)OC)OC)OC)O)OC)OCCC | C25H36O10S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | Na2CO3 | 9.4 mmole, 1.0 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-(3,4,5-trimethoxyphenyl)-tetrahydrofuran | COC=1C=C(C=C(C1OC)OC)C1CCCO1 | C13H18O4
